US07858800B2
2) Production of tert-butyl 4-hydroxy-4-(1-propynyl)-piperidine-1-carboxylate
tert-Butyl 4-oxopiperidine-1-carboxylate (2.99 g) was dissolved in 30 ml of tetrahydrofuran, cooled down to −78° C., 40 ml of a 0.5N solution of 1-propynyl magnesium bromide in 40 ml of tetrahydrofuran was dropped thereinto and temperature of the mixture was raised to room temperature followed by stirring for one night. A saturated aqueous solution of sodium hydrogen carbonate was added to the reaction solution to stop the reaction and the product was extracted with ethyl acetate, washed with a saturated aqueous solution of ammonium chloride and dried over sodium sulfate. The solvent was evaporated in vacuo and the resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=4/1) to give 1.41 g of the title compound as a crude product.

reactant | tert-Butyl 4-oxopiperidine-1-carboxylate | 2.99 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 1-propynyl magnesium bromide | C(#CC)[Mg]Br
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-hydroxy-4-(1-propynyl)-piperidine-1-carboxylate | 1.41 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)C#CC | C13H21NO3
